US08048902B2
To 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (5.764 g, 20.4 mmol) in toluene (200 mL) was added triethylamine (3.13 mL, 22.4 mmol) and diphenylphosphoryl azide (4.42 mL, 20.4 mmol), and the mixture was stirred for 5 minutes at room temperature. 2-Chloro-alpha-methylbenzyl alcohol (3.2 g, 22.4 mol) was added, and the reaction was stirred at 80° C. for 2 hours. The mixture was diluted with EtOAc (200 mL) and extracted with EtOAc. The combined organic layers were washed twice with water and once with brine, and the combined aqueous layers were back-extracted with EtOAc. The combined organic layers were concentrated, and the residue was purified by silica gel chromatography to give [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 20.4 mmol, 5.764 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | triethylamine | 22.4 mmol, 3.13 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 20.4 mmol, 4.42 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-Chloro-alpha-methylbenzyl alcohol | 22.4 mol, 3.2 g | ClC1=C(C(C)O)C=CC=C1 | C8H9ClO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
